US03960861
4-Amino-2-(7-methoxy-1,2,3,4-tetrahydroisoquinolin-2-yl)-6,7,8-trimethoxyquinazoline
The procedure described in Example 1 was followed to prepare the above compound, starting from 4-amino-2-chloro-6,7,8-trimethoxyquinazoline and using 7-methoxy-1,2,3,4-tetrahydroisoquinoline as the reagent of choice on the same molar basis as before. In this particular case, the final product was isolated as the hydrochloride salt m.p. 236°C.

reactant | 4-amino-2-chloro-6,7,8-trimethoxyquinazoline | NC1=NC(=NC2=C(C(=C(C=C12)OC)OC)OC)Cl | C11H12ClN3O3
reactant | 7-methoxy-1,2,3,4-tetrahydroisoquinoline | COC1=CC=C2CCNCC2=C1 | C10H13NO
product | 4-Amino-2-(7-methoxy-1,2,3,4-tetrahydroisoquinolin-2-yl)-6,7,8-trimethoxyquinazoline | NC1=NC(=NC2=C(C(=C(C=C12)OC)OC)OC)N1CC2=CC(=CC=C2CC1)OC | C21H24N4O4
